US09388141B2
1.3 trans-N-[trans-4-[2-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)piperazin-1-yl]ethyl]cyclohexyl]-4-hydroxy-cyclohexanecarboxamide
Trans-4-hydroxycyclohexanecarboxylic acid (1,991 g, 13.81 mmol) was added to a solution of trans-4-(2-(4-(2-(tert-butyl)-6-cyclobutylpyrimidin-4-yl)piperazin-1-yl)ethyl)cyclohexanamine (4.6 g, 11.51 mmol) in dichloromethane. HATU (2-(3H-1,2,31-triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate, 5.25 g, 13.8 mmol) and diisopropylethylamine (6.03 mL, 34.5 mmol) were added and the mixture stirred at room temperature for 14 h. The solvent was evaporated and the residue partitioned between dichloromethane and water. The aqueous phase was extracted several times with dichloromethane. The combined organic layers were washed twice with 5% aqueous sodium bicarbonate solution and twice with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and evaporated to dryness. Purification via silica gel chromatography (330 g Reveleris NP cartridge) with dichloromethane/methanol (0-80%) as eluent yielded 6.05 g of the title compound.

reactant | Trans-4-hydroxycyclohexanecarboxylic acid | 13.81 mmol, 1,991 g | O[C@@H]1CC[C@H](CC1)C(=O)O | C7H12O3
reactant | trans-4-(2-(4-(2-(tert-butyl)-6-cyclobutylpyrimidin-4-yl)piperazin-1-yl)ethyl)cyclohexanamine | 11.51 mmol, 4.6 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)N)C1CCC1 | C24H41N5
reactant | HATU | 13.8 mmol, 5.25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 34.5 mmol, 6.03 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | ClCCl | CH2Cl2
product | trans-N-[trans-4-[2-[4-(2-tert-butyl-6-cyclobutyl-pyrimidin-4-yl)piperazin-1-yl]ethyl]cyclohexyl]-4-hydroxy-cyclohexanecarboxamide | 6.05 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(=O)[C@@H]1CC[C@H](CC1)O)C1CCC1 | C31H51N5O2
